### PR TITLE
Add char-2 doubling form of uniform Ruzsa bound

### PR DESCRIPTION
**Pull request by Chessing234**
In char 2, `A - A = A + A`, so the existing difference-set Ruzsa bound should also be available under an `|A + A|` hypothesis; add that wrapper next to `sumset_eq_sub`.

Made with [Cursor](https://cursor.com)

### CODE REVIEW

File: PFR/Main.lean [hunk 1]
```diff
@@ -140,6 +140,16 @@ lemma sumset_eq_sub {G : Type*} [AddCommGroup G] [Module (ZMod 2) G] (A : Set G)
...
 
+/-- In characteristic 2, a uniform distribution on a set with doubling constant `K`
+has self Rusza distance at most `log K`. -/
+theorem rdist_le_of_isUniform_of_doubling [A_fin : Finite A] [MeasurableSpace G]
+    [MeasurableSingletonClass G]
+    (hA₀ : A.Nonempty) (hA : (A + A).ncard ≤ K * A.ncard)
+    {Ω : Type*} [MeasureSpace Ω] [IsProbabilityMeasure (ℙ : Measure Ω)] {U₀ : Ω → G}
+    (U₀unif : IsUniform A U₀) (U₀meas : Measurable U₀) : d[U₀ # U₀] ≤ log K := by
+  rw [sumset_eq_sub] at hA
+  exact rdist_le_of_isUniform_of_card_add_le hA₀ hA U₀unif U₀meas
```
Comment (YaelDillies) [inline PFR/Main.lean]:
```suggestion
    (U₀unif : IsUniform A U₀) (U₀meas : Measurable U₀) : d[U₀ # U₀] ≤ log K :=
  rdist_le_of_isUniform_of_card_add_le hA₀ (by simpa [\l sumset_eq_sub]) U₀unif U₀meas
```

**Comment by Chessing234** [comment]
applied, thanks — also rebased onto the card_sub_le rename

**Review by YaelDillies — APPROVED** [review]
Thanks!
